US08236954B2
Methyl 5-({2-amino-5-[(4-methyl-1-piperazinyl)methyl]phenyl}amino)-3-({(1R)-1-[2-(trifluoromethyl)phenyl]ethyl}oxy)-2-thiophenecarboxylate
A mixture of methyl 5-({5-[(4-methyl-1-piperazinyl)methyl]-2-nitrophenyl}amino)-3-({(1R)-1-[2-(trifluoromethyl)phenyl]ethyl}oxy)-2-thiophenecarboxylate (0.24 g, 0.415 mmol), 5% Pd/C (0.144 g), HCl (1.25 M in MeOH, 0.034 mL, 0.043 mmol), trimethylorthoformate (1.66 mL, 15.2 mmol) in toluene (0.58 mL) was hydrogenated under a H2 atmosphere at 1.1 bar pressure overnight. The vessel was purged with N2 and the reaction mixture was analysed by HPLC to confirm presence of the title compound which was not purified, but used crude in the next step. LRMS found m/z [ES+] 549.

reactant | methyl 5-({5-[(4-methyl-1-piperazinyl)methyl]-2-nitrophenyl}amino)-3-({(1R)-1-[2-(trifluoromethyl)phenyl]ethyl}oxy)-2-thiophenecarboxylate | 0.415 mmol, 0.24 g | CN1CCN(CC1)CC=1C=CC(=C(C1)NC1=CC(=C(S1)C(=O)OC)O[C@H](C)C1=C(C=CC=C1)C(F)(F)F)[N+](=O)[O-] | C27H29F3N4O5S
reactant | HCl | 0.043 mmol, 1.25 M, 0.034 mL | Cl | ClH
reactant | trimethylorthoformate | 15.2 mmol, 1.66 mL | COC(OC)OC | C4H10O3
solvent | toluene | 0.58 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | 0.144 g | [Pd] | Pd
product | Methyl 5-({2-amino-5-[(4-methyl-1-piperazinyl)methyl]phenyl}amino)-3-({(1R)-1-[2-(trifluoromethyl)phenyl]ethyl}oxy)-2-thiophenecarboxylate | NC1=C(C=C(C=C1)CN1CCN(CC1)C)NC1=CC(=C(S1)C(=O)OC)O[C@H](C)C1=C(C=CC=C1)C(F)(F)F | C27H31F3N4O3S
